US04578381
2.7 Grams of 3-formylcarbostyril was dissolved in 150 ml of tetrahydrofuran, then 0.8 g of oil 50%-sodium hydride was added thereto at a room temperature with stirring. Next, 4.5 g of methyl iodide was added dropwise at a room temperature for 3 hours. The reaction mixture was concentrated under a reduced pussure, the residue thus obtained was poured into water and the crystals precipitated were collected by filtration. Recrystallized from ethanol to obtain 1.7 g of 1-methyl-3-formylcarbostyril in the form of yellow-brownish needle-like crystals.

reactant | 3-formylcarbostyril | C(=O)C=1C(NC2=CC=CC=C2C1)=O | C10H7NO2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 4.5 g | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-methyl-3-formylcarbostyril | 1.7 g | CN1C(=O)C(=CC2=CC=CC=C12)C=O | C11H9NO2
